US09145369B2
1-Methyl-3-difluoromethyl-1H-pyrazole-4-carbaldehyde (III-1)
In an autoclave, 10 g of 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbaldehyde were dissolved in 150 ml of ethanol, and 10.4 g of triethylamine and 500 mg of 5% palladium on calcium carbonate were added. The autoclave was flushed with nitrogen and subsequently pressurised to 5 bar hydrogen. The reaction mixture was then stirred at 30° C. for 4 h. After filtration of the catalyst, the solvent was removed under reduced pressure and the product was obtained as a solid (7.4 g) having a melting point of 46-47° C.

reactant | triethylamine | 10.4 g | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbaldehyde | 10 g | ClC1=C(C(=NN1C)C(F)F)C=O | C6H5ClF2N2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on calcium carbonate | 500 mg | [Pd] | Pd
product | 1-Methyl-3-difluoromethyl-1H-pyrazole-4-carbaldehyde | 7.4 g | CN1N=C(C(=C1)C=O)C(F)F | C6H6F2N2O
